US06696566B2
Step A: Preparation of [(2,4-Difluoro-phenyl)-methyl-amino]-acetic Acid Methyl Ester
To a mixture of the 2,4-Difluoro-N-methylaniline (Avacado Research Chemical, Heysham UK) (1.43 g, 10 mmole) in NMP, and K2CO3, was added methyl bromoacetate (0.945 ml, 10 mmole) and stirred at room temperature for 24 hours. The reaction mixture was added to water and extracted with ethyl acetate (3×50 ml), the organic extracts were washed 6× with water, dried (MgSO4) amd evaporated to give the product as a oil.

reactant | 2,4-Difluoro-N-methylaniline | 10 mmole, 1.43 g | FC1=C(NC)C=CC(=C1)F | C7H7F2N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 10 mmole, 0.945 ml | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | [(2,4-Difluoro-phenyl)-methyl-amino]-acetic Acid Methyl Ester | COC(CN(C)C1=C(C=C(C=C1)F)F)=O | C10H11F2NO2
